US05196408
Step C: Ethyl (1-methylethyl)carbamate
To a solution of ethyl chloroformate (21.7 g, 0.2 mol) in 200 ml ether cooled to 0° C. was added dropwise 35.7 ml of isopropylamine with stirring and cooling. After complete addition of the amine, the reaction mixture was stirred at room temperature for an additional 0.5 hour. The reaction mixture was filtered, and the ether solution was washed with water, and dried over magnesium sulfate. Evaporation of the ether and distillation of the residue in a Kugelrohr apparatus resulted in 22.6 g of the title compound B.p.: 50°-66° C. (bath temperature) at 1.5 mm Hg.

reactant | ethyl chloroformate | 0.2 mol, 21.7 g | ClC(=O)OCC | C3H5ClO2
reactant | isopropylamine | 35.7 ml | C(C)(C)N | C3H9N
solvent | ether | 200 ml | CCOCC | C4H10O
product | Ethyl (1-methylethyl)carbamate | 22.6 g | CC(C)NC(OCC)=O | C6H13NO2
